US05990142
5H N-(3-Acetyl-2-hydroxyphenyl)-2-(benzyloxymethyl)benzofuran-5-carboxamide
Following the process described in example 1 (point K), starting from 2-(benzyloxymethyl)benzofuran-5-carboxylic acid and 3-amino-2-hydroxyacetophenone, the title compound was prepared as a yellowish solid with melting point 92-94° C., which was purified by chromatography through a silica gel column (98% yield).

reactant | 2-(benzyloxymethyl)benzofuran-5-carboxylic acid | C(C1=CC=CC=C1)OCC=1OC2=C(C1)C=C(C=C2)C(=O)O | C17H14O4
reactant | 3-amino-2-hydroxyacetophenone | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
product | N-(3-Acetyl-2-hydroxyphenyl)-2-(benzyloxymethyl)benzofuran-5-carboxamide | 98% yield | C(C)(=O)C=1C(=C(C=CC1)NC(=O)C=1C=CC2=C(C=C(O2)COCC2=CC=CC=C2)C1)O | C25H21NO5
